datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19](=[C:20]([C:21]([C:22]([H:28])([H:29])[H:30])[C:23](=[C:24]([H:32])[H:33])[H:31])[H:27])([H:25])[H:26]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[C:21]([C:20](=[C:19]([H:25])[H:26])[H:27])([C:22]([H:28])([H:29])[H:30])[C:23](=[C:24]([H:32])[H:33])[H:31])([H:9])[H:10],85.3118
[C:0](=[C:1]([C:2]([O:3][O:4])([H:8])[H:9])[H:7])([H:5])[H:6]>>[C:0](=[C:1][C:2]([O:3][O:4][H:7])([H:8])[H:9])([H:5])[H:6],145.603
[C:0]([O:1][O:2])([H:3])([H:4])[H:5].[O:6][O:7][H:8]>>[C:0]([O:1][O:2][H:8])([H:3])([H:4])[H:5].[O:6][O:7],-6.56888
[C:0](=[S:1])([H:2])[H:3].[c:4]1[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]1[H:14]>>[C:0](=[S:1])[H:3].[H:2][c:4]1[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]1[H:14],-14.644
[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]2[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]2[c:10]1[H:20])([H:11])([H:12])[H:13]>>[C:0]([H:11])([H:12])[H:13].[c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]2[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]2[c:10]1[H:20],405.746
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21](#[C:22][C:23]([C:24]([H:27])([H:28])[H:29])[H:26])[H:25]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:12])[C:23]([C:22]#[C:21][H:25])([C:24]([H:27])([H:28])[H:29])[H:26])[H:11],34.4762
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:35]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:22][H:35],18.706664
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])([H:5])[c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20],-15.439
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])=[C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([C:7]([H:20])([H:21])[H:22])[C:8]1([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:12],68.3666
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15](=[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[H:22])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:17]([C:16](=[C:15]([H:19])[H:20])[H:21])([C:18]([H:23])([H:24])[H:25])[H:22],38.9112
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[O:7]([H:8])[H:9]>>[C:0]([C:1]([S:2][H:8])([H:6])[O:7][H:9])([H:3])([H:4])[H:5],102.717
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[S:14]=[C:15]([C:16]([S:17][H:20])[H:19])[H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:16]([C:15](=[S:14])[H:18])([S:17][H:20])[H:19],122.256
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[C:27]([H:28])([H:29])[H:30]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:21][C:27]([H:28])([H:29])[H:30],46.998872
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]([H:8])([H:9])[H:10])([H:6])[H:7]>>[C:0](=[S:1])[H:3].[H:2][C:4]([C:5]([H:8])([H:9])[H:10])([H:6])[H:7],81.0022
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19](=[C:20]([C:21]([C:22]([H:28])([H:29])[H:30])[C:23](=[C:24]([H:32])[H:33])[H:31])[H:27])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[C:21]([C:20](=[C:19]([H:25])[H:26])[H:27])([C:22]([H:28])([H:29])[H:30])[C:23](=[C:24]([H:32])[H:33])[H:31])[H:9],59.1618
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([S:8][H:12])[H:11])([H:9])[H:10]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:12])[H:3].[C:6](=[C:7]([S:8])[H:11])([H:9])[H:10],12.552
